US05616601
To a mixture of 4-methyl-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide (10 mmol) and sodium bicarbonate (20 mmol) in isopropanol (100 mL), 3-bromo-1,1,1-trifluoroacetone (20 mmol) is added. After heating the reaction mixture at 70°-75° C. for 20 hours, the solvent is removed. The residue is redissolved in methylene chloride and washed with water. The organic fractions are combined, dried over sodium sulfate, filtered and concentrated in vacuo. The crude mixture is chromatographed (silica gel, toluene/ethyl acetate, 7/3) to give 2-(4-methylphenyl)-4-hydroxy-1-[4-(methylsulfonyl)phenyl]-4-trifluoromethyl-4,5-dihydro-1H-imidazole.

reactant | 4-methyl-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide | 10 mmol | CC1=CC=C(C=C1)C(NC1=CC=C(C=C1)S(=O)(=O)C)=N | C15H16N2O2S
reactant | sodium bicarbonate | 20 mmol | C([O-])(O)=O.[Na+]
reactant | 3-bromo-1,1,1-trifluoroacetone | 20 mmol | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 2-(4-methylphenyl)-4-hydroxy-1-[4-(methylsulfonyl)phenyl]-4-trifluoromethyl-4,5-dihydro-1H-imidazole | CC1=CC=C(C=C1)C=1N(CC(N1)(C(F)(F)F)O)C1=CC=C(C=C1)S(=O)(=O)C | C18H17F3N2O3S
